Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Mr ___ is a pleasant
___ ___ male with a history of ___
disease who presents with 6 weeks of progressively worsening 
back
pain, causing difficulty with ambulation. Patient had a
colonoscopy 4 weeks ago and believes that he developed back pain
following the procedure, denies any trauma or other inciting
event for the pain.  The pain is generally constant, worse with
prolongued sitting, at its worst is ___.  He was seen in the
emergency room for this earlier in ___ for pain as well, was
found to have constipation and was given bowel reg but no pain
meds.  Patient does not have a fever, chills, vomiting, 
diarrhea,
denies ___ weakness, b/b incontinence. 

In the ED, initial vitals were: 98.1 66 103/65 18 99% RA.  Labs
and UA were unremarkable.  CTAP showed no acute findings to
explain the pts sxs, unchanged 8.5 cm L upper pole exophytic
renal cyst, l4-l5 disk bulge with moderate canal narrowing. 
Urology was consulted and felt that the renal cyst was very
unlikely to be a cause of his pain, can f/u in ___ clinic as 
an
outpt in ___ m.  Pt was given carbidopa-levodopa, oxycodone,
ketorolac and tylenol.  Blood cxs were sent.  He was admitted 
for
pain control, formal urology eval of cyst and monitoring of 
blood
pressure given pt report of chills. 

On the floor, history is obtained with ___ interpreter. 
Patient c/o ongioing R-sided lower back/buttock pain radiating
down leg.   No bowel or bladder incontinence, + constipation 
with
last BM 3 days ago.  No decreased sensation.  He denies any 
fever
or chills to me, denies L sided pain.  Pain is currently 
___.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. 10 pt ros otherwise negative.

 
Past Medical History:
___
Glaucoma

 
Social History:
___
Family History:
brother with diabetes
 
Physical Exam:
Vitals: 98.0 ___ / 81 R ___
Constitutional: Alert, oriented, no acute distress, bilat 
tremor,
flat affect
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII grossly intact, ___ strength in lower
extremities, good rectal tone, no saddle anesthesia
SKIN: no rashes or lesions
MSK: Mild TTP with palpation of paraspinous musculature in R 
L4/5
region and buttock

 
Pertinent Results:
___ 07:00AM BLOOD WBC-6.3 RBC-4.50* Hgb-15.1 Hct-46.3 
MCV-103* MCH-33.6* MCHC-32.6 RDW-13.5 RDWSD-51.6* Plt ___
___ 03:42PM BLOOD ___ PTT-33.4 ___
___ 07:00AM BLOOD Glucose-69* UreaN-19 Creat-0.9 Na-142 
K-4.8 Cl-97 HCO3-34* AnGap-11
 
Brief Hospital Course:
Pleasant ___ yo M with hx of ___,
now presenting for persistent LBP/buttock pain.

# R-sided back/buttock pain: With imaging showing disk buldge at
L4-L5 with canal narrowing.  Given his pain is in this area and
radiating down R leg, suspect nerve root compression. 
Reassuringly, no e/o abscess, osteo on imaging, no red flags or
s/s consistent with cord compression.  I do not think this pain
is related to his renal cyst given it is on the opposite side 
and
more rostral.  Pt has not had an adequate trial of pain
___, would attempt this and consider non-urgent MRI if 
sxs
persist.  Pain was well controlled.  He was able to ambulate 
with physical therapy. he was safe to be discharged home with 
outpatient physical therapy.  

# renal cyst: chronic and stable, likely benign and likely not
causing pts current sxs.   
-no need for urgent inpt urology eval given chronic, stable
-can f/u with urology as outpt in ___ m

# chills: per pt, room was cold, no fevers, no persistent 
chills,
low concern for infection.
-f/u blood cxs

# constipation: senna/Colace

# Parkinsons: cont home carvidopa/levodopa

# glaucoma: cont home eye drops

# FEN: No IVF, replete electrolytes, regular diet
# PPX: Subcutaneous heparin, senna/Colace
# ACCESS: peripherals
# CODE: full code, no blood transfusions
# CONTACT: Sister, ___ ___  ___ (sister)
___
# DISPO: HMED pending ___ eval/placement

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 2 TAB PO TID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 
3. moxifloxacin 0.5 % ophthalmic (eye) QID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Carbidopa-Levodopa (___) 2 TAB PO TID  
2.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  moxifloxacin 0.5 % ophthalmic (eye) QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar disc bulge/radiculopathy

 
Discharge Condition:
ambulatory, AAOx3, clear mental status

 
Discharge Instructions:
You were admitted with right sided lower back pain.  We found 
some bulging disks in your spine, that are probably contributing 
to this pain.  There were no other acute findings on imaging.  
You walked with physical therapy, and you should see them as an 
outpatient.  You were stable enough to walk on your own. 
 
Followup Instructions:
___